US07723336B2
To a mixture of tert-butyl 4-(6-chloroimidazo[1,2-b]pyridazin-8-ylamino)phenylcarbamate (0.1 g, 0.28 mmol) from 1a and EtOH (4 mL) in a 500 ml PARR bottle was added 10% Pd/C (0.02 g) and 2 drops of triethyl amine. The PARR bottle was then charged with H2 at 55 psi and allow to shake at room temperature for 12 hours. The reaction mixture was then filtered and the filtrate concentrated in vacuo to give 0.085 g of crude tert-butyl 4-(imidazo[1,2-b]pyridazin-8-ylamino)phenylcarbamate.

reactant | tert-butyl 4-(6-chloroimidazo[1,2-b]pyridazin-8-ylamino)phenylcarbamate | 0.28 mmol, 0.1 g | ClC=1C=C(C=2N(N1)C=CN2)NC2=CC=C(C=C2)NC(OC(C)(C)C)=O | C17H18ClN5O2
catalyst | triethyl amine | 2 drops | C(C)N(CC)CC | C6H15N
catalyst | Pd/C | 0.02 g | [Pd] | Pd
solvent | EtOH | 4 mL | CCO | C2H6O
product | tert-butyl 4-(imidazo[1,2-b]pyridazin-8-ylamino)phenylcarbamate | 0.085 g | N=1C=CN2N=CC=C(C21)NC2=CC=C(C=C2)NC(OC(C)(C)C)=O | C17H19N5O2
